US05538986
Dissolved 10,11-dihydro-5-(2-propenyl)-5H-dibenzo[a,d]cyclohepten-5-yl-(2-tetrahydropyranyloxy-ethene) (4.82 g, 13.37 mmol) in 50 mL of THF. Added 50 mL of 0.2N HCl, and refluxed for 18 hours. Cooled to room temperature, and added 150 mL of saturated NaHCO3. Extracted with ethyl acetate. Washed combined organic extracts with saturated NaCl, dried (MgSO4), filtered, and evaporated. Purified crude product by flash chromatography on silica gel eluting with 10% ethyl acetate-hexane. Combined appropriate fractions and evaporated to give 3.32 g (90% yield) of 2-[10,11-dihydro-5-(2-propenyl)-5H-dibenzo[a,d]cyclohepten-5-yl]-ethanal).

reactant | 10,11-dihydro-5-(2-propenyl)-5H-dibenzo[a,d]cyclohepten-5-yl-(2-tetrahydropyranyloxy-ethene) | 13.37 mmol, 4.82 g | C(C=C)C1(C2=C(CCC3=C1C=CC=C3)C=CC=C2)C=COC2OCCCC2 | C25H28O2
reactant | HCl | 0.2N, 50 mL | Cl | ClH
reactant | NaHCO3 | 150 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-[10,11-dihydro-5-(2-propenyl)-5H-dibenzo[a,d]cyclohepten-5-yl]-ethanal | 3.32 g, 90% yield | C(C=C)C1(C2=C(CCC3=C1C=CC=C3)C=CC=C2)CC=O | C20H20O
